US04284643
8.64 g (0.04 mol) of 3-phenoxy-4-fluoro-benzaldehyde and 11.22 g (0.04 mol) of α-isopropyl-4-trifluoromethoxy-phenyl-acetic acid chloride were together added dropwise to a mixture of 3 g of sodium cyanide, 4.7 ml of water, 200 ml of n-hexane and 1 g of tetrabutylammonium bromide at 20°-25° C., while stirring, and the mixture was then stirred at 20°-25° C. for 4 hours. 300 ml of toluene were then added to the reaction mixture and the mixture was extracted by shaking twice with 300 ml of water each time. The organic phase was separated off and dried over magnesium sulphate and the solvent was distilled off under a waterpump vacuum. Last residues of solvent were removed by brief incipient distillation at a bath temperature of 60° C./1 mm Hg. 15.6 g (80.1% of theory) of α-isopropyl-4-trifluoromethoxy-phenylacetic acid 3-phenoxy-4-fluoro-α-cyanobenzyl ester were obtained as a yellow oil with the refractive index nD29 : 1.5185.

reactant | 3-phenoxy-4-fluoro-benzaldehyde | 0.04 mol, 8.64 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1F | C13H9FO2
reactant | α-isopropyl-4-trifluoromethoxy-phenyl-acetic acid chloride | 0.04 mol, 11.22 g | C(C)(C)C(C(=O)Cl)C1=CC=C(C=C1)OC(F)(F)F | C12H12ClF3O2
reactant | sodium cyanide | 3 g | [C-]#N.[Na+]
reactant | water | 4.7 ml | O | H2O
catalyst | tetrabutylammonium bromide | 1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 200 ml | CCCCCC | C6H14
product | α-isopropyl-4-trifluoromethoxy-phenylacetic acid 3-phenoxy-4-fluoro-α-cyanobenzyl ester | 15.6 g, 80.1% | O(C1=CC=CC=C1)C=1C=C(C(C#N)OC(C(C(C)C)C2=CC=C(C=C2)OC(F)(F)F)=O)C=CC1F | C26H21F4NO4
